US04310533
5.4 g of 4-guanidinobenzoic acid and 50 ml of thionyl chloride were heated at 70° to 75° C. for 30 minutes with stirring. To the reaction mixture was added petroleum ether to precipitate crystals of 4-guanidinobenzoyl chloride hydrochloride, which were filtered and washed with petroleum ether. The 4-guanidinobenzoyl chloride, thus obtained, was added to 7.9 g of piperidinocarbonylmethyl 4-hydroxybenzoate in 100 ml of pyridine at 0° C., followed by stirring at 10° to 20° C. for 3 hours. To the reaction mixture was added diethyl ether, and the supernatant was removed by decantation, and then to the residual oil was added a saturated aqueous solution of sodium bicarbonate. The precipitated crystals were filtered off, washed successively with water and acetone, and dried. The obtained crystals were suspended in methanol, and the suspension was acidified at pH 3 by adding methanesulfonic acid, and then filtered. Diethyl ether was added to the filtrate to precipitate crystals. Recrystallization thereof from methanol afforded 8.4 g (70%) of the title compound as white crystals. Melting point: 189°-190° C.

reactant | 4-guanidinobenzoic acid | 5.4 g | N(C(=N)N)C1=CC=C(C(=O)O)C=C1 | C8H9N3O2
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-guanidinobenzoyl chloride | N(C(=N)N)C1=CC=C(C(=O)Cl)C=C1 | C8H8ClN3O
